US07544812B2
A solution of 2-cyclopentyloxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid cyclopentyl ester (0.108 g, 0.179 mmol) in ethanol (10 mL) was treated with aqueous 5 N NaOH (1 mL) and stirred at room temperature for 3 h. The solvent removed in vacuo. The resultant residue was acidified with aqueous 1 N HCl (10 mL) and extracted with CH2Cl2. The organic layer was dried (Na2SO4) and the solvent removed in vacuo to afford 0.106 g of crude acid that was purified by chiral HPLC (20×250 nm Chiralpak AD, 3:2 heptane:IPA with 0.1% trifluoroacetic acid mobile phase, 14 mL/min, 225 nm) to give 0.080 g (83%) of 100% de 2-cyclopentyloxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid. 1H NMR. HRMS (ES+) m/z exact mass calc'd for C28H34N2O5F3 (M+1) 535.2420. Found m/z 535.2408.

reactant | 2-cyclopentyloxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid cyclopentyl ester | 0.179 mmol, 0.108 g | C1(CCCC1)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)OC1CCCC1)=O | C33H41F3N2O5
reactant | NaOH | 5 N, 1 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-cyclopentyloxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid | C1(CCCC1)OC(C(=O)O)CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C28H33F3N2O5
